US04068065
A mixture of 3,619 g. of the copolymer prepared as described in Example 2 and a solution of 30.5 g. of phenyl isocyanate in 100 ml. of n-hexane was heated under reflux for 9.25 hours. At the end of this time the solid catalyst was removed by filtration and the filtrate was evaporated to dryness to yield diphenyl carbodiimide. An infrared spectrum of the product revealed only a trace of unreacted isocyanate. In contrast, a solution of phenyl isocyanate in n-hexane, heated under reflux for the same length of time but in the absence of catalyst, showed no significant amount of absorption corresponding to carbodiimide linkages in the infrared spectrum.

reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | n-hexane | CCCCCC | C6H14
product | diphenyl carbodiimide | C1(=CC=CC=C1)N=C=NC1=CC=CC=C1 | C13H10N2
